US06017675
3.8 g (0.015 mol) of 9-hydroxyimino-3,6-dimethoxyfluorene and 2.3 g (0.0225 mol) of triethylamine are suspended in 80 ml of tetrahydrofuran (THF) and, at 0° C., a solution of 3.1 g (0.0165 mol) of para-toluenesulfonic acid chloride in 20 ml of THF is added dropwise. After 4 hours, the ice-bath is removed and the reaction mixture is stirred overnight at room temperature. Then 40 ml of CH2Cl2 are added and the resulting ammonium salts are filtered off. The filtrate is washed with water and saturated NaCl, dried over magnesium sulfate and concentrated in a rotary evaporator. The resulting crude product is purified by flash chromatography on silica gel (eluant: petroleum ether/ethyl acetate 2:1). The fraction containing the main product is taken up in 100 ml of hot ethanol and the solution is filtered while hot. On cooling, the product precipitates and is filtered off and dried in vacua. 3.2 g (52%) of 9-(4-methylphenylsulfonyl-oxyimino)-3,6-dimethoxyfluorene are obtained in the form of yellow crystals having a melting point of 143-148° C. The UV spectrum (acetonitrile) of the substance shows absorption bands with a maximum at 314 nm (ε=21100) that extend to 450 nm. Elemental analysis: C22H19NO5S (409.6)

reactant | 9-hydroxyimino-3,6-dimethoxyfluorene | 0.015 mol, 3.8 g | ON=C1C2=CC=C(C=C2C=2C=C(C=CC12)OC)OC | C15H13NO3
reactant | triethylamine | 0.0225 mol, 2.3 g | C(C)N(CC)CC | C6H15N
reactant | para-toluenesulfonic acid chloride | 0.0165 mol, 3.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | 9-(4-methylphenylsulfonyl-oxyimino)-3,6-dimethoxyfluorene | 3.2 g, 52% | CC1=CC=C(C=C1)S(=O)(=O)ON=C1C2=CC=C(C=C2C=2C=C(C=CC12)OC)OC | C22H19NO5S
